US07625932B2
Additional Preparation of 3-(4-benzyloxy-phenyl)-5-bromo-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
A solution of 3-(4-benzyloxy-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester. (184.73 g, 0.512 mol, prepared in example E-6a or E-6b) in anhydrous THF (2,000 mL) is treated with NBS (109.47 g, 0.615 mol). The resulting reaction mixture is allowed to stir at room temperature overnight. The reaction mixture is poured into water (2,000 mL). The resulting solution is divided into 2 equal parts, and each is extracted with EtOAc (3×800 mL each). The combined organics are dried over anhydrous MgSO4, filtered, then concentrated in vacuo to afford a yellow solid. The yellow solid is purified by column chromatography (silica gel, EtOAc/Hexanes 1/3) to afford the title compound (133.99 g, ˜60% yield) as a white solid: 1H NMR (500 MHz; CDCl3) δ 7.46-7.44 (m, 2H), 7.41-7.38 (m, 2H), 7.36-7.32 (m, 1H), 7.29-7.26 (m, 2H), 7.01-6.99 (m, 2H), 5.10 (s, 2H), 4.11 (q, 2H), 3.98 (s, 3H), 1.02 (t, 31); MS(ES): m/z 438.9.

reactant | 3-(4-benzyloxy-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C#N)C | C22H20N2O3
reactant | NBS | 0.615 mol, 109.47 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 2,000 mL | O | H2O
solvent | THF | 2,000 mL | C1CCOC1 | C4H8O
product | 3-(4-benzyloxy-phenyl)-5-bromo-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 133.99 g, ˜60% yield | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C#N)Br)C | C22H19BrN2O3
